US06683095B2
Synthesis of (E)-3-[2-(benzyloxy)-3,4-dimethoxyphenyl]-1-(2-hydroxy-5-methylphenyl)-2-propen-1-one
2-Hydroxy-5-methylacetophenone (690 mg, 2.53 mmol) and 2-benzyloxy-3,4-dimethoxybenzaldehyde (460 mg, 3.03 mmol) was reacted according to the same procedure as Preparation 1 to give 740 mg (Yield 76%) of the title compound.

reactant | 2-Hydroxy-5-methylacetophenone | 2.53 mmol, 690 mg | CC1=CC(=C(C=C1)O)C(=O)C | C9H10O2
reactant | 2-benzyloxy-3,4-dimethoxybenzaldehyde | 3.03 mmol, 460 mg | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1OC)OC | C16H16O4
product | (E)-3-[2-(benzyloxy)-3,4-dimethoxyphenyl]-1-(2-hydroxy-5-methylphenyl)-2-propen-1-one | 740 mg, Yield 76% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1OC)OC)/C=C/C(=O)C1=C(C=CC(=C1)C)O | C25H24O5
